US05753652
Analogously to Example 4a, 14 g (106 mmol) of 4-hydroxybenzaldehyde and 14 g (117 mmol) of tert-butylcarbazate in 125 ml of ethanol are reacted to form 4-hydroxybenzaldehyde-tert-butoxycarbonylhydrazone. (19.8 g, 80%). 9.73 g thereof are hydrogenated in 200 ml of THF in the presence of 0.6 g of 5% palladium on carbon at 1 atm hydrogen pressure to yield the title compound, which is crystallised from hot methanol. 1H-NMR (200 MHz, CD3OD): 7.18 (d, J=8 Hz, 2H), 6.73 (d, J=8 Hz, 2H), 3.80 (s, 2H), 1.45 (s, 9H).

reactant | 4-hydroxybenzaldehyde | 106 mmol, 14 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | tert-butylcarbazate | 117 mmol, 14 g | C(C)(C)(C)OC(NN)=O | C5H12N2O2
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 4-hydroxybenzaldehyde-tert-butoxycarbonylhydrazone | C(C)(C)(C)OC(=O)NN=CC1=CC=C(C=C1)O | C12H16N2O3
